US07423067B2
2-Amino-4-(5-chloro-2-pyridyl)-3-phenylbutane hydrochloride salt (mixture of diastereomers α/β 10:1)
5-Chloro-2-choromethylpyridine (Weidmann, K. et al. J. Med. Chem. 1992, 35, 438) and phenylacetone were used in place of 4-chlorobenzyl bromide and 3-pyridylacetone in Step A of Reference Example 4. LC-MS: m/e 261 (M+H)+.

reactant | 5-Chloro-2-choromethylpyridine | ClC=1C=CC(=NC1)CCl | C6H5Cl2N
reactant | phenylacetone | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | 4-chlorobenzyl bromide | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | 3-pyridylacetone | N1=CC(=CC=C1)CC(C)=O | C8H9NO
product | 2-Amino-4-(5-chloro-2-pyridyl)-3-phenylbutane hydrochloride salt | Cl.NC(C)C(CC1=NC=C(C=C1)Cl)C1=CC=CC=C1 | InChI=1S/C15H17ClN2.ClH/c1-11(17)15(12-5-3-2-4-6-12)9-14-8-7-13(16)10-18-14;/h2-8,10-11,15H,9,17H2,1H3;1H
